US07638515B2
9.6 g (34.3 mmol) of ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-oxopropionate and 34.5 ml (233 mmol) of (trifluoromethyl)-trimethylsilane in 343 ml of DMF are mixed with 46.9 g of cesium carbonate at 0° C. It is stirred for 2 hours at 0° C. and then the reaction mixture is added to water. It is extracted several times with ethyl acetate, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 10%-40%), 10.4 g of ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)-propionate is obtained as a yellow oil. This oil is mixed in 297 ml of diethyl ether at 0° C. with 2.25 g (59.4 mmol) of lithium aluminum hydride, and it is stirred for 1 more hour at room temperature. 20 ml of saturated ammonium chloride solution is carefully added to the batch at 0° C., and it is stirred vigorously for 15 more minutes. It is extracted several times with diethyl ether, washed with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum. After chromatographic purification on silica gel (hexane/ethyl acetate 10%-50%), 5.6 g of 3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-(trifluoromethyl)-propane-1,2-diol is obtained. 12. 4 ml (89 mmol) of triethylamine is added to 5.6 g (18.1 mmol) of diol in 100 ml of dichloromethane and 61 ml of DMSO, and 11 g (70 mmol) of pyridine/SO3 complex is added in portions over 10 minutes. It is stirred over 3 hours, and saturated ammonium chloride solution is added. The mixture is stirred for another 15 minutes, the phases are separated, and it is extracted with dichloromethane. It is washed with water and dried on sodium sulfate. The solvent is removed in a vacuum, and after chromatographic purification on silica gel (hexane/ethyl acetate, 0-50%), 5.9 g of product is obtained.

reactant | ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-oxopropionate | 34.3 mmol, 9.6 g | C(C)OC(C(CC1(CC1)C1=C(C(=CC=C1)F)OC)=O)=O | C15H17FO4
reactant | (trifluoromethyl)-trimethylsilane | 233 mmol, 34.5 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 46.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 343 ml | CN(C)C=O | C3H7NO
product | ethyl-3-[1-(3-fluoro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)-propionate | 10.4 g | C(C)OC(C(CC1(CC1)C1=C(C(=CC=C1)F)OC)(C(F)(F)F)O)=O | C16H18F4O4
